US07495103B2
To a cooled solution of 2-methyl-2-(4-nitrophenyl)propanenitrile (670 mg, 3.5 mmol) in THF (15 mL) was added BH3 (1M in THF, 14 mL, 14 mmol) dropwise at 0° C. The mixture was warmed to room temperature and heated at 70° C. for 2 h. 1N HCl solution (2 mL) was added, followed by the addition of NaOH until pH>7. The mixture was extracted with ether and ether extract was concentrated to give 2-methyl-2-(4-nitrophenyl)propan-1-amine (610 mg, 90%), which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 8.20 (d, J=9.0 Hz, 2H), 7.54 (d, J=9.0 Hz, 2H), 2.89 (s, 2H), 1.38 (s, 6H).

reactant | 2-methyl-2-(4-nitrophenyl)propanenitrile | 3.5 mmol, 670 mg | CC(C#N)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H10N2O2
reactant | HCl | 1N, 2 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-methyl-2-(4-nitrophenyl)propan-1-amine | 610 mg, 90% | CC(CN)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H14N2O2
